US07981903B2
To a suspension of 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}piperazine (5.0 g, 11.6 mmol), methane sulfonyl chloride (1.4 mL, 17.5 mmol) and dichloromethane (200 mL) was added triethylamine (8.1 mL, 58.2 mmol). The reaction was stirred at room temperature and monitored by TLC. After complete consumption of the starting material the clear yellow solution was concentrated onto silica gel and purified by chromatography to afford 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}-4-(methylsulfonyl)piperazine as a yellow solid (3.54 g, 76%). 1H NMR (400 MHz, DMSO-d6) δ 7.85 (d, J=9.5 Hz, 1H), 6.57 (dd, J=9.2, 2.6 Hz, 1H), 6.48 (d, J=2.6 Hz, 1H), 4.09-4.00 (m, 2H), 3.89 (s, 3H), 3.10-3.03 (m, 4H), 2.99-2.90 (m, 2H), 2.84 (s, 3H), 2.61-2.52 (m, 5H), 1.85-1.77 (m, 2H), 1.50-1.37 (m, 2H).

reactant | 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}piperazine | 11.6 mmol, 5.0 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCNCC1 | C16H24N4O3
reactant | methane sulfonyl chloride | 17.5 mmol, 1.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 58.2 mmol, 8.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}-4-(methylsulfonyl)piperazine | 3.54 g, 76% | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C | C17H26N4O5S
